US08278320B2
(3R,4R)-3-Hydroxy-1-azabicyclo[2.2.1]heptane-3-carbonitrile (390 mg, 2.82 mmol) was dissolved in THF (1 mL). Borane-THF complex was added (2.9 ml, 2.90 mmol) and the mixture was allowed to stir for 20 min, at which time an additional portion of Borane-THF complex (5.7 ml, 5.70 mmol) was added and the mixture brought to reflux for 3 h. The reaction mixture was cooled to ambient temperature and carefully quenched with 5 ml EtOH followed by 0.5 ml water and allowed to stir overnight. The mixture was evaporated to dryness and azeotroped with EtOH, re-dissolved in acetone (10 mL) and to this was carefully added 3N HCl (10 mL, 30 mmol). The effervescent reaction was allowed to stir for 2 hours, at which time bubbling had ceased and the reaction was evaporated to near-dryness and azeotroped several times with EtOH, at which point the product began to crystallize from solution. After ˜5 cycles of azeotroping, the residue was suspended in EtOH and solids were collected by filtration to afford (3S,4R)-3-(aminomethyl)-1-azabicyclo[2.2.1]heptan-3-ol dihydrochloride. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.02 (br. s., 1H) 8.27 (br. s., 3H) 6.29 (s, 1H) 2.86-3.63 (m, 9H) 2.14-2.37 (m, 1H) 1.64-2.05 (m, 1H). Optical rotation (4.01 mg/mL, water)=−15.01°.

reactant | (3R,4R)-3-Hydroxy-1-azabicyclo[2.2.1]heptane-3-carbonitrile | 2.82 mmol, 390 mg | O[C@]1(CN2CC[C@@H]1C2)C#N | C7H10N2O
reactant | HCl | 30 mmol, 3N, 10 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3S,4R)-3-(aminomethyl)-1-azabicyclo[2.2.1]heptan-3-ol dihydrochloride | Cl.Cl.NC[C@@]1(CN2CC[C@@H]1C2)O | InChI=1S/C7H14N2O.2ClH/c8-4-7(10)5-9-2-1-6(7)3-9;;/h6,10H,1-5,8H2;2*1H/t6-,7+;;/m1../s1
